US04962115
A mixture of 15 parts of methyl 2-amino-4-pyridinecarboxylate, 13.75 parts of 1-chloro-2-propanone and 160 parts of absolute methanol was stirred and refluxed for 18 hours. The reaction mixture was treated with a sodium hydroxide solution 1N in methanol. The solvent was evaporated in vacuo and the residue was dissolved in trichloromethane. The solution was filtered and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone. The product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 9.7 parts of methyl 2-methylimidazo[1,2-a]pyridine-7-carboxylate; mp. 149.1° C. (intermediate 12).

reactant | methyl 2-amino-4-pyridinecarboxylate | NC1=NC=CC(=C1)C(=O)OC | C7H8N2O2
reactant | 1-chloro-2-propanone | ClCC(C)=O | C3H5ClO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | methyl 2-methylimidazo[1,2-a]pyridine-7-carboxylate | CC=1N=C2N(C=CC(=C2)C(=O)OC)C1 | C10H10N2O2
